US07381719B2
Part A: (±)-(trans)-4-[2-(4-Methoxyphenyl)ethylamino]cyclohexanol
Heat a mixture of (±)-(trans)-4-aminocyclohexanol (607 m, 5.3 mmol), Cs2CO3 (4.300 g, 13.2 mmol), and 1-(2-chloroethyl)-4-methoxybenzene (0.8 mL) in DMF (10 mL) at 100° C. for 19 hours. Quench the reaction with saturated aqueous NH4Cl (40 mL). Adjust the pH to alkaline and concentrate to dryness. Suspend the residue in 50:40:10 EtOAc/CH2Cl2/2.0 M NH3 in MeOH and stir vigorously for 1 hour. Decant the supernatant. Suspend the residue in 10:90 2.0 M NH3 in MeOH/CH2Cl2 for 30 minutes and filter. Combine the organic layers, concentrate, and purify by flash chromatography, eluting with 75:15:10 EtOAc/CH2Cl2/2.0 M NH3 in MeOH to afford the title compound (258.3 mg, 20%): MS ES+ 250.0 (M+H)+, HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=1.96 min, 100% purity.

reactant | (±)-(trans)-4-aminocyclohexanol | 5.3 mmol | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | Cs2CO3 | 13.2 mmol, 4.300 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-(2-chloroethyl)-4-methoxybenzene | 0.8 mL | ClCCC1=CC=C(C=C1)OC | C9H11ClO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (±)-(trans)-4-[2-(4-Methoxyphenyl)ethylamino]cyclohexanol | 258.3 mg, 20% | COC1=CC=C(C=C1)CCN[C@@H]1CC[C@H](CC1)O | C15H23NO2
